US08563505B2
HATU (248 mg, 0.652 mmol) was added to a solution of (2S,4R)-methyl 4-methoxy-4-(2′-vinylbiphenyl-4-yl)pyrrolidine-2-carboxylate (200 mg, 0.593 mmol), (S)-2-((hept-6-enyloxy)carbonylamino)-3,3-dimethylbutanoic acid (201 mg, 0.741 mmol) and DIEA (0.311 mL, 1.778 mmol) in DCM (8 mL) and stirred at r.t. 60 hours. The reaction was evaporated and purified on the Biotage (10-40% EtOAc:Hex) to give (2S,4R)-methyl 1-((S)-2-((hept-6-enyloxy)carbonylamino)-3,3-dimethylbutanoyl)-4-methoxy-4-(2′-vinylbiphenyl-4-yl)pyrrolidine-2-carboxylate (260 mg, 0.440 mmol, 74% yield) as a white solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 0.96-1.00 (m, 1H) 1.06-1.10 (m, 1H) 1.11-1.19 (m, 7H) 1.30-1.47 (m, 4H) 1.55-1.64 (m, 2H) 1.99-2.10 (m, 2H) 2.49-2.55 (m, 1H) 2.89 (d, J=13.05 Hz, 1H) 2.93-3.04 (m, 3H) 3.73-3.80 (m, 3H) 3.92-4.10 (m, 3H) 4.11-4.20 (m, 1H) 4.31-4.41 (m, 1H) 4.87-5.05 (m, 3H) 5.23 (dd, J=10.92, 1.13 Hz, 1H) 5.38-5.42 (m, 1H) 5.68-5.75 (m, 1H) 5.75-5.86 (m, 1H) 6.62-6.76 (m, 1H) 7.28-7.43 (m, 7H) 7.63-7.69 (m, 1H). LCMS: r.t.=2.25 min., [M+H]+=591 Phenomenex Luna S10 (3×50 mm); Solvent A=95% water—5% methanol—10 mM ammonium acetate, Solvent B=5% water—95% methanol—10 mM ammonium acetate; gradient=0% to 100% solvent B over 2 min. and then hold for 1 min.; 4 ml/min; inj. vol.=10 ul; wavelength=220 nm.

reactant | HATU | 0.652 mmol, 248 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2S,4R)-methyl 4-methoxy-4-(2′-vinylbiphenyl-4-yl)pyrrolidine-2-carboxylate | 0.593 mmol, 200 mg | CO[C@]1(C[C@H](NC1)C(=O)OC)C1=CC=C(C=C1)C1=C(C=CC=C1)C=C | C21H23NO3
reactant | (S)-2-((hept-6-enyloxy)carbonylamino)-3,3-dimethylbutanoic acid | 0.741 mmol, 201 mg | C(CCCCC=C)OC(=O)N[C@H](C(=O)O)C(C)(C)C | C14H25NO4
reactant | DIEA | 1.778 mmol, 0.311 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | (2S,4R)-methyl 1-((S)-2-((hept-6-enyloxy)carbonylamino)-3,3-dimethylbutanoyl)-4-methoxy-4-(2′-vinylbiphenyl-4-yl)pyrrolidine-2-carboxylate | 0.440 mmol, 260 mg, 74% yield | C(CCCCC=C)OC(=O)N[C@H](C(=O)N1[C@@H](C[C@](C1)(C1=CC=C(C=C1)C1=C(C=CC=C1)C=C)OC)C(=O)OC)C(C)(C)C | C35H46N2O6
